US07786165B2
3-{4-[(4-{4-[2-(ethylsulfonyl)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)amino]-2-fluorophenyl}propanoic acid hydrochloride
To a solution of 3-(4-{(4-{4-[2-(ethylsulfonyl)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoic acid (0.620 g, 0.856 mmol) and mercaptoacetic acid (0.181 mg, 1.97 mmol) in N,N-dimethylformamide (20 mL) was added lithium hydroxide monohydrate (0.143 g, 3.42 mmol), and the mixture was stirred at room temperature for 2.5 hr. The reaction mixture was diluted with water, neutralized with 1 N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-25% ethyl acetate/hexane), and the obtained residue was dissolved in ethyl acetate (10 mL) and treated with 4 N hydrogen chloride/ethyl acetate solution (0.170 mL) to give the title compound as colorless crystals (0.127 g, yield 26%).

reactant | 3-(4-{(4-{4-[2-(ethylsulfonyl)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoic acid | 0.856 mmol, 0.620 g | C(C)S(=O)(=O)CCOC1=CC(=C(C(=C1)C)C1=C2CCC(C2=CC=C1)N(C1=CC(=C(C=C1)CCC(=O)O)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C36H37FN2O9S2
reactant | mercaptoacetic acid | 1.97 mmol, 0.181 mg | SCC(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 3.42 mmol, 0.143 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-{4-[(4-{4-[2-(ethylsulfonyl)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)amino]-2-fluorophenyl}propanoic acid hydrochloride | 0.127 g, yield 26% | Cl.C(C)S(=O)(=O)CCOC1=CC(=C(C(=C1)C)C1=C2CCC(C2=CC=C1)NC1=CC(=C(C=C1)CCC(=O)O)F)C | InChI=1S/C30H34FNO5S.ClH/c1-4-38(35,36)15-14-37-23-16-19(2)30(20(3)17-23)26-7-5-6-25-24(26)11-12-28(25)32-22-10-8-21(27(31)18-22)9-13-29(33)34;/h5-8,10,16-18,28,32H,4,9,11-15H2,1-3H3,(H,33,34);1H
